### PR TITLE
Make TableConstraint a state monad

### PR DESCRIPTION
**Pull request by mitschabaude**
- changes `TableConstraint` to be just `StateM (TableContext ...)`
- ensure all proofs still work
- misc. cleanup, esp. in `Table/Basic.clean`

### CODE REVIEW

File: Clean/Table/Basic.lean
Comment (mitschabaude) [inline Clean/Table/Basic.lean:1]: main changes are in this file!

File: Clean/Table/Basic.lean [hunk 1]
```diff
@@ -38,79 +40,16 @@ namespace Trace
...
-def len {F : Type} {S : Type -> Type} [ProvableType S] : Trace F S -> ℕ
+def len : Trace F S → ℕ
   | <+> => 0
-  | rest +> _ => Nat.succ rest.len
-
-/--
-  Induction principle that applies for every row in the trace, where the inductive step takes into
-  account the previous two rows.
--/
-def everyRowTwoRowsInduction {F : Type}
```
Comment (mitschabaude) [inline Clean/Table/Basic.lean:49]: I moved this stuff to a separate file because it obscured the main `TableConstraint` logic for me

File: Clean/Table/Basic.lean [hunk 2]
```diff
@@ -13,18 +13,20 @@ import Clean.Table.SimpTable
...
 @[reducible]
-def Row (F : Type) (S : Type -> Type) [ProvableType S] := S F
+def Row (F : Type) (S : Type → Type) [ProvableType S] := S F
+
+variable {F : Type} {S : Type → Type} [NonEmptyProvableType S]
 
 @[table_norm]
-def Row.get {F : Type} {S : Type -> Type} [struct: ProvableType S] (row : Row F S) (i : Fin struct.size) : F :=
-  let elems := ProvableType.to_elements row
+def Row.get (row : Row F S) (i : Fin (size S)) : F :=
```
Comment (mitschabaude) [inline Clean/Table/Basic.lean:21]: I made the implicit variables invisible in several places to make the file more readable

File: Clean/Table/Basic.lean [hunk 3]
```diff
@@ -200,110 +135,118 @@ namespace CellOffset
...
 
 /--
   Context of the TableConstraint that keeps track of the current state, this includes the underlying
   offset, and the current assignment of the variables to the cells in the trace.
 -/
-structure TableContext (W: ℕ+) (S : Type -> Type)  (F : Type) [Field F] [struct: ProvableType S] where
+structure TableContext (W: ℕ+) (S : Type → Type) (F : Type) [Field F] [ProvableType S] where
   offset: ℕ
   assignment : CellAssignment W S
+  operations: List (TableConstraintOperation W S F)
```
Comment (mitschabaude) [inline Clean/Table/Basic.lean:186]: table context is the monad state, so it must now also carry along the `operations` done so far

File: Clean/Table/Basic.lean [hunk 4]
```diff
@@ -313,47 +256,28 @@ instance {W: ℕ+} {S : Type -> Type}  {F : Type} [Field F] [ProvableType S] [Re
 
 end TableConstraintOperation
 
-
-@[table_norm]
-def TableConstraint (W: ℕ+) (S : Type -> Type) (F : Type) [Field F] [NonEmptyProvableType S] (α : Type) :=
-  TableContext W S F → (TableContext W S F × List (TableConstraintOperation W S F)) × α
+@[reducible, table_norm]
+def TableConstraint (W: ℕ+) (S : Type → Type) (F : Type) [Field F] [NonEmptyProvableType S] :=
+  StateM (TableContext W S F)
```
Comment (mitschabaude) [inline Clean/Table/Basic.lean:261]: main change here!

File: Clean/Table/Theorems.lean
Comment (mitschabaude) [inline Clean/Table/Theorems.lean:1]: code here was in `Table/Basic` before

File: Clean/Tables/Fibonacci32.lean
Comment (mitschabaude) [inline Clean/Tables/Fibonacci32.lean:1]: I had to fight a bit to get the fib32 proof to work again. at the end I also tried to make the proofs faster and more readable, but didn't really succeed in that 😅

File: Clean/Circuit/Provable.lean [hunk 5]
```diff
@@ -96,6 +96,19 @@ instance : ProvableType (fields n) where
...
+  from_elements zeros
+
+instance [Field F] : Inhabited (α F) where
+  default := synthesize_value
+
+def synthesize_const_var : Var α F :=
+  let zeros := Vector.fill (size α) 0
+  from_vars (zeros.map .const)
+
+instance [Field F] : Inhabited (Var α F) where
```
Comment (mitschabaude) [inline Clean/Circuit/Provable.lean:110]: this makes `default` work for any circuit inputs, which is nice because you can instantiate a circuit without thinking about how to define the inputs

**Review by mitschabaude — COMMENTED** [review]
some comments for the reviewer 👇🏻

File: Clean/Tables/Fibonacci32.lean [hunk 6]
```diff
@@ -191,29 +194,33 @@ lemma lift_rec_add (curr : Row (F p) RowType) (next : Row (F p) RowType)
...
-    Fin.cast_eq_self, List.get_eq_getElem, Fin.val_zero, List.getElem_cons_zero, Fin.val_one,
-    List.getElem_cons_succ, Fin.val_two, List.map_nil, Vector.instAppend, Vector.append,
-    List.cons_append, List.singleton_append, CellOffset.next, SubCircuit.witness_length,
-    FlatOperation.witness_length, add_zero, Gadgets.Addition32Full.spec, ZMod.val_zero,
-    Nat.reducePow] at h_add
+  dsimp only [Circuit.subcircuit_soundness] at h_add
+  change _ ∧ _ ∧ _ → (Gadgets.Addition32Full.circuit.spec _ _) at h_add
+  rw [and_imp, and_imp] at h_add
+  intro h_norm_x h_norm_y
+  -- TODO this unification is slow
```
Comment (gio54321) [inline Clean/Tables/Fibonacci32.lean:201]: Not sure why this is so slow, tried to change some stuff around, but hitting timeouts most of the time.
I think it is mostly the fact that `eval` gets expanded before computing the assignment, so it grows the formula size, but not sure

File: Clean/Tables/Fibonacci32.lean [hunk 7]
```diff
@@ -110,16 +105,16 @@ def spec {N : ℕ} (trace : TraceOfLength (F p) RowType N) : Prop :=
 -/
 omit p_large_enough in
 lemma boundary_vars :
```
Comment (gio54321) [inline Clean/Tables/Fibonacci32.lean:107]: The variables lemmas are a lot faster with the state monad than the previous formulation!
